US04507315
2-(4-Nitrobenzenesulphonamido)-N-(3-imidazol-1-ylpropyl)benzamide (38.4 g) was dissolved in glacial acetic acid (30 ml) and 5% w/w palladium-on-charcoal (8.0 g) was added. The mixture was stirred under an atmosphere of hydrogen for 4 hours, filtered free of catalyst and evaporated. The solid residue was dissolved in water and the solution was adjusted to pH 9 by the addition of aqueous ammonia. The solid which had precipitated was collected and recrystallised from ethanol to give 2-(4-aminobenzenesulphonamido)-N-(3-imidazol-1-ylpropyl)benzamide (26.7 g) in the form of a white solid, m.p. 171°-175° C.

reactant | 2-(4-Nitrobenzenesulphonamido)-N-(3-imidazol-1-ylpropyl)benzamide | 38.4 g | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)NC1=C(C(=O)NCCCN2C=NC=C2)C=CC=C1 | C19H19N5O5S
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
catalyst | palladium-on-charcoal | 8.0 g | [Pd] | Pd
product | 2-(4-aminobenzenesulphonamido)-N-(3-imidazol-1-ylpropyl)benzamide | 26.7 g | NC1=CC=C(C=C1)S(=O)(=O)NC1=C(C(=O)NCCCN2C=NC=C2)C=CC=C1 | C19H21N5O3S
